US04428940
(h) 2,3-Dihydro-α-oxo-2-benzofuran-pentanoic acid ethyl ester
3-[2,3-Dihydro-2-benzofuranyl)propyl]-1,3-dithiane-2-carboxylic acid ethyl ester (8.0 g) dissolved in acetonitrile (15 mls) was added rapidly to a stirred solution of N-chlorosuccinimide (120 g) and silver nitrate (17.6 g) in 80% acetonitrile-water at 25° C. After 10 minutes saturated solutions of sodium sulphite (50 mls), sodium carbonate (50 mls) and brine were added successively at one minute intervals. To this mixture, a solution of hexane-dichloromethane (1:1, 250 mls) was added followed by filtration through celite. The organic phase of the filtrate was separated and dried over anhydrous magnesium sulphate. Removal of the solvent gave an oil (5.0 g). The unstable product was used immediately in the next stage. M/e M+ 262.

reactant | 1,3-dithiane-2-carboxylic acid ethyl ester | 8.0 g | C(C)OC(=O)C1SCCCS1 | C7H12O2S2
reactant | N-chlorosuccinimide | 120 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | sodium sulphite | 50 mls | S(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium carbonate | 50 mls | C([O-])([O-])=O.[Na+].[Na+]
reactant | hexane dichloromethane | 250 mls | CCCCCC.ClCCl
solvent | acetonitrile | 15 mls | C(C)#N | C2H3N
solvent | acetonitrile water | C(C)#N.O
solvent | brine | [Cl-].[Na+].O
catalyst | silver nitrate | 17.6 g | [N+](=O)([O-])[O-].[Ag+]
product | 2,3-Dihydro-α-oxo-2-benzofuran-pentanoic acid ethyl ester | 5.0 g | C(C)OC(C(CCCC1OCC2=C1C=CC=C2)=O)=O | C15H18O4
